US07410976B2
6-amino-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one
3.78 g of benzyl {1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}carbamate was dissolved in 20 mL of THF and 40 mL of MeOH, and hydrogenated on 10% Pd/C at room temperature. Pd/C was removed through filtration, and the filtrate was concentrated to obtain the intended compound. 1H-NMR (CDCl3) δ: 7.77 (1H, dd, J=8.5, 1.2 Hz), 7.47 (1H, t, J=8.0 Hz), 7.17 (1H, s), 7.15 (1H, d, J=2.9 Hz), 7.08 (1H, dd, J=7.8, 1.0 Hz), 6.91 (1H, dd, J=8.8, 2.9 Hz), 6.85 (1H, d, J=8.8 Hz), 4.56 (1H, d, J=13.2 Hz), 4.16-4.08 (1H, m), 4.08 (3H, s), 4.03 (3H, s), 3.63-3.53 (3H, m), 3.34 (1H, td, J=12.8, 3.3 Hz), 2.76 (1H, d, J=16.5 Hz), 2.70 (1H, d, J=16.5 Hz), 2.20 (1H, dd, J=13.9, 2.7 Hz), 2.05 (1H, dd, J=13.9, 2.7 Hz), 1.88-1.78 (2H, m). MS [M+H]+=448.

reactant | benzyl {1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}carbamate | 3.78 g | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)NC(OCC2=CC=CC=C2)=O | C33H31N3O7
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-amino-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one | NC=1C=C2C(CC3(CCN(CC3)C(=O)C3=NC4=C(C=CC=C4C(=C3)OC)OC)OC2=CC1)=O | C25H25N3O5
